US07501406B2
c) N-(1-Benzoyl-piperidin-4-ylmethyl)-4-chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide
4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-N-piperidin-4-ylmethyl-benzenesulfonamide (0.04 g, 0.09 mmol) and triethylamine (19 mg, 0.18 mmol) were dissolved in dichloromethane (1.5 ml). Then benzoyl chloride (0.018 g, 0.13 mmol) was added and the mixture was stirred overnight at room temperature. The reaction mixture was partitioned between aqueous sodium bicarbonate solution and ethyl acetate. The organic layer was dried (MgSO4) and concentrated under reduced pressure. The residue was purified over silica gel (heptane/ethyl acetate 1:1) to yield 29 mg (58%) of the title compound;

reactant | 4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-N-piperidin-4-ylmethyl-benzenesulfonamide | 0.09 mmol, 0.04 g | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1CCNCC1)[C@H]1C(NCCC(C1)(F)F)=O | C18H24ClF2N3O3S
reactant | triethylamine | 0.18 mmol, 19 mg | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.13 mmol, 0.018 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | N-(1-Benzoyl-piperidin-4-ylmethyl)-4-chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide | 29 mg, 58% | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CN(S(=O)(=O)C1=CC=C(C=C1)Cl)[C@H]1C(NCCC(C1)(F)F)=O | C25H28ClF2N3O4S
